US07049445B2
Synthesis of N-(3-acetyl-4-chlorophenyl)methanesulfonamide
1-(5-Amino-2-chlorophenyl)ethanone (411 mg; synthesized by the process reported by Radziejewski et al., Heterocycles, vol. 26, pp. 1227-1238 (1987)) was dissolved in toluene (5 mL), and pyridine (235 μL) and methanesulfonyl chloride (225 μL) were added. The resulting mixture was stirred at room temperature for 50 minutes. After adding water (50 mL), the reaction mixture was extracted with ethyl acetate (500 mL). The organic layer was washed with an aqueous 1 N hydrochloric acid solution (50 mL) and saturated brine (50 mL) and then dried over anhydrous sodium sulfate (5 g). The solvent was distilled off under reduced pressure to yield the title compound (595 mg) as a colorless crystal.

reactant | 1-(5-Amino-2-chlorophenyl)ethanone | NC=1C=CC(=C(C1)C(C)=O)Cl | C8H8ClNO
reactant | pyridine | 235 μL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 225 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-acetyl-4-chlorophenyl)methanesulfonamide | 595 mg | C(C)(=O)C=1C=C(C=CC1Cl)NS(=O)(=O)C | C9H10ClNO3S
